US06211215B1
Diisobutylalminium hydride (1M in toluene, 7.2 ml) was added dropwise to a stirred solution of 7-(2-thienyl)-3-quinolinecarboxylate (500 mg) in tetrahydrofuran (30 m) at 0° C. After stirring for 30 min, the reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with brine, dried (MgSO4), and concentrated. The residue was purified by silica gel column chromatography. From the fraction eluted with ethyl acetate-hexane (1:2, v/v) 7-(2-thienyl)-3-quinolylmethanol (270 mg, 63%) was obtained. Recrystallization from ethyl acetate-hexane gave yellow prisms, 143-144° C.

reactant | hydride | 1M, 7.2 ml | [H-]
reactant | 7-(2-thienyl)-3-quinolinecarboxylate | 500 mg | S1C(=CC=C1)C1=CC=C2C=C(C=NC2=C1)C(=O)[O-]
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-(2-thienyl)-3-quinolylmethanol | 270 mg, 63% | S1C(=CC=C1)C1=CC=C2C=C(C=NC2=C1)CO | C14H11NOS
